US07544703B2
N-(3,5-Dimethylphenyl)-2-[2-(4-methylpiperazin-1-yl)pyridin-4-ylmethylthio]pyridine-3-carboxamide (Compound No. 1-1)
N-Methylpiperazine (2.0 mL) was added to N-(3,5-dimethylphenyl)-2-(2-fluoropyridin-4-ylmethylthio)pyridine-3-carboxamide (Reference compound No. 3-1, 100 mg, 0.27 mmol) at room temperature, then the vessel was sealed and the reaction mixture was stirred for 3 hours at 150° C. The mixture was cooled to room temperature, ethyl acetate (20 mL) was added to the reaction mixture, and then the whole was washed with brine (20 mL) and dried over anhydrous magnesium sulfate. The organic layer was evaporated under reduced pressure, and the resulting solid was filtered off with ethyl acetate to give 39 mg of the target compound as a colorless crystal. (Yield 32%)

reactant | N-Methylpiperazine | 2.0 mL | CN1CCNCC1 | C5H12N2
reactant | N-(3,5-dimethylphenyl)-2-(2-fluoropyridin-4-ylmethylthio)pyridine-3-carboxamide | CC=1C=C(C=C(C1)C)NC(=O)C=1C(=NC=CC1)SCC1=CC(=NC=C1)F | C20H18FN3OS
solvent | ethyl acetate | 20 mL | C(C)(=O)OCC | C4H8O2
product | N-(3,5-Dimethylphenyl)-2-[2-(4-methylpiperazin-1-yl)pyridin-4-ylmethylthio]pyridine-3-carboxamide | 39 mg, Yield 32% | CC=1C=C(C=C(C1)C)NC(=O)C=1C(=NC=CC1)SCC1=CC(=NC=C1)N1CCN(CC1)C | C25H29N5OS
